US08633175B2
3-(1,2,3,4-tetrahydro-6-isoquinolinyl)benzamide
To a solution of 1,1-dimethylethyl 6-[3-(aminocarbonyl)phenyl]-3,4-dihydro-2(1H)-isoquinolinecarboxylate (0.725 g; 2.20 mmol; I-VII-9) and Et3SiH (0.88 mL; 5.5 mmol) in CH2Cl2 (25 mL) at room temperature was added TFA (10 mL) in one portion. The mixture was aged 3 h and concentrated in vacuo (2×PhMe chase). The residue was partitioned between satd Na2CO3/CHCl3 (Note 1), layers were separated and the aqueous layer was extracted with CHCl3 (×4). Combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo, affording the title compound as a colorless solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.76 (t, J=5.7 Hz, 2H), 2.96 (t, J=5.8 Hz, 2H), 3.87 (s, 2H), 7.11 (d, J=7.9 Hz, 1H), 7.40-7.48 (m, 3H), 7.51 (t, J=7.8 Hz, 1H), 7.78 (ddd, J=7.7, 1.8, 1.1 Hz, 1H), 7.82 (ddd, J=7.8, 1.4, 1.3 Hz, 1H), 8.10 (s, 1H), 8.12 (t, J=1.6 Hz, 1H).

reactant | 1,1-dimethylethyl 6-[3-(aminocarbonyl)phenyl]-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 2.20 mmol, 0.725 g | NC(=O)C=1C=C(C=CC1)C=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C21H24N2O3
reactant | Et3SiH | 5.5 mmol, 0.88 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,2,3,4-tetrahydro-6-isoquinolinyl)benzamide | C1NCCC2=CC(=CC=C12)C=1C=C(C(=O)N)C=CC1 | C16H16N2O
